US07342115B2
LDA (19 mg, 89 μL of 2 M solution in THF, 0.18 mmol) at −78° C. is added to a solution of 6-(2,6-diethyl-phenyl)-4-methoxy-2-methyl-nicotinic acid methyl ester (27 mg, 0.086 mmol). The mixture is stirred for 30 minutes at −78° C. Methyl iodide (15 μL, 0.24 mmol) is added and the resulting yellow mixture is stirred for 10 minutes at −78° C. After quenching with saturated NH4Cl the mixture is extracted with EtOAc. The combined extracts are dried, concentrated, and purified by flash-chromatography to give 6-(2,6-diethyl-phenyl)-2-ethyl-4-methoxy-nicotinic acid methyl ester.

reactant | LDA | 0.18 mmol, 2 M, 89 μL, 19 mg | [Li+].CC(C)[N-]C(C)C
reactant | 6-(2,6-diethyl-phenyl)-4-methoxy-2-methyl-nicotinic acid methyl ester | 0.086 mmol, 27 mg | COC(C1=C(N=C(C=C1OC)C1=C(C=CC=C1CC)CC)C)=O | C19H23NO3
reactant | Methyl iodide | 0.24 mmol, 15 μL | CI | CH3I
product | 6-(2,6-diethyl-phenyl)-2-ethyl-4-methoxy-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1OC)C1=C(C=CC=C1CC)CC)CC)=O | C20H25NO3
